US05885994
6-(4-m-Tolylpiperazin-1-ylmethyl)-1,2,3,4-tetrahydroquinoxaline
Example 9 was prepared according to Example 2 except that in Step A 1-(m-tolyl)piperazine is substituted for 1-(3,4-dimethylphenyl)piperazine; mp 135°-136° C.

reactant | 1-(m-tolyl)piperazine | C1(=CC(=CC=C1)N1CCNCC1)C | C11H16N2
reactant | 1-(3,4-dimethylphenyl)piperazine | CC=1C=C(C=CC1C)N1CCNCC1 | C12H18N2
product | 6-(4-m-Tolylpiperazin-1-ylmethyl)-1,2,3,4-tetrahydroquinoxaline | C1(=CC(=CC=C1)N1CCN(CC1)CC=1C=C2NCCNC2=CC1)C | C20H26N4
